US04618617
A mixture of 6.0 g of 3-chloromethyl-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole and 50 ml of liquid ammonia was allowed to stand in an autoclave at room temperature overnight. After evaporation of ammonia, the residue was chromatographed over silica gel using chloroform to give 4.05 g of 3-aminomethyl-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole as a light brown oil, nD22 1.5878.

reactant | 3-chloromethyl-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole | 6.0 g | ClCC1=NOC(=N1)C(C1=CC(=C(C=C1)C1=CC=CC=C1)F)C | C17H14ClFN2O
reactant | ammonia | N | H3N
product | 3-aminomethyl-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole | 4.05 g | NCC1=NOC(=N1)C(C1=CC(=C(C=C1)C1=CC=CC=C1)F)C | C17H16FN3O
